US03966799
The autoclave is then opened and 12.6 g sodium bicarbonate is added to the reaction mass in order to neutralize the phosphoric acid. 30 g Primol (a registered trademark for mineral oil manufactured by the Exxon Co. of Linden, N.J.) is then added as a still base, and the reaction mass is fractionally distilled on a 1 × 20 inches packed Goodloe distillation column (i) at atmospheric pressure and 129°C (yielding a mixture of ethanol and ethyl propionate (245 g) and (ii) at 40 mm Hg. pressure and 75°C (yielding 264 g of ethyl-2-methyl-4-pentenoate. Yield, based on triethyl orthopropionate used, 73.5%.

reactant | sodium bicarbonate | 12.6 g | C([O-])(O)=O.[Na+]
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | ethyl propionate | 245 g | C(CC)(=O)OCC | C5H10O2
reactant | ethanol | C(C)O | C2H6O
product | ethyl-2-methyl-4-pentenoate | 264 g | C(C)OC(C(CC=C)C)=O | C8H14O2
